US06784183B2
Step 1: 2-(3-Nitrophenyl)propanenitrile
A mixture of 62 mmol (10 g) of 3-nitrophenylacetonitrile, 1.11 mol (100 g) of dimethyl carbonate and 3.1 mmol (0.43 g) of potassium carbonate is heated for 6 hours at 170° C. in an autoclave. After cooling, 200 ml of dichloromethane are added and the organic phase is washed with 100 ml of water and then with 100 ml of a saturated aqueous solution of sodium chloride. The organic phase is dried over magnesium sulphate and concentrated. The residue obtained is purified by chromatography on silica gel, using as eluant a 90/10 cyclohexane/ethyl acetate mixture, to yield the expected product.

reactant | 3-nitrophenylacetonitrile | 62 mmol, 10 g | [N+](=O)([O-])C=1C=C(C=CC1)CC#N | C8H6N2O2
reactant | dimethyl carbonate | 1.11 mol, 100 g | C(OC)(OC)=O | C3H6O3
reactant | potassium carbonate | 3.1 mmol, 0.43 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 2-(3-Nitrophenyl)propanenitrile | [N+](=O)([O-])C=1C=C(C=CC1)C(C#N)C | C9H8N2O2
